US07615549B2
(d) tert. butyl {-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-5-oxo-pyrrolidin-3-yl}-carbamate
Prepared analogously to Example 1e from 1-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid by carboxylic acid breakdown by means of DPPA, tert.-butanol and triethylamine.

reactant | 1-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)N1CC(CC1=O)C(=O)O | C16H13FN2O4
reactant | DPPA | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | tert.-butanol | C(C)(C)(C)O | C4H10O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | tert. butyl {-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenyl]-5-oxo-pyrrolidin-3-yl}-carbamate | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)N1CC(CC1=O)NC(OC(C)(C)C)=O | C20H22FN3O4
